US08134001B2
In a manner similar to the methods described in Examplea 1a and 1b, 6-chloro-1,3-dihydro-indol-2-one (Aldrich) reacted with 2,5-difluoro-benzaldehyde to give 6-chloro-3-[1-(2,5-difluoro-phenyl)-methylidene]-2-oxo-2,3-dihydro-indole, which was subsequently reacted with (t-BuOCO)2O and DMAP.

reactant | 6-chloro-1,3-dihydro-indol-2-one | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | 2,5-difluoro-benzaldehyde | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
product | 6-chloro-3-[1-(2,5-difluoro-phenyl)-methylidene]-2-oxo-2,3-dihydro-indole | ClC1=CC=C2C(C(NC2=C1)=O)=CC1=C(C=CC(=C1)F)F | C15H8ClF2NO
